US07592477B2
Step e) Formation of 4-{[[ethoxy(oxo)acetyl]({1-[(9H-fluoren-9-ylmethoxy)carbonyl]piperidin-4-yl}methyl)amino]methyl}benzoic acid
To a solution of 4-{[[ethoxy(oxo)acetyl](piperidin-4-ylmethyl)amino]methyl}benzoic acid (7.650 g, 16.54 mmol) in dioxane/H2O (1/1) (120 mL) was added Fmoc-OSu (6.697 g, 19.85 mmol) and a 1 M aqueous solution of NaHCO3 (10 mL). The resulting reaction mixture was stirred for 1.25 h, then concentrated under vacuum. The oily residue dissolved in DCM (120 mL) was washed with a 1 N aqueous solution until pH 1, dried over MgSO4, filtered and the solvents were evaporated under vacuum. This crude product was purified by column chromatography over silica gel (AcOEt/c-Hex 1/4 to 1/1 in about 1 h) to give the title compound as a white powder (3.755 g, 40%). 1H NMR (CDCl3, 300 MHz) δ 8.1 (m, 2H), 7.75 (d, 2H, J=7.6 Hz), 7.55 (d, 2H, J=7.2 Hz), 7.38 (m, 4H), 7.29 (t, 2H, J=7.3 Hz), 4.70 (s, 1H), 4.56 (s, 1H), 4.45-4.07 (m, 7H), 3.0 (m, 2H), 2.45 (m, 2H), 1.7-1.5 (m, 1H), 1.40 (m, 2H), 1.38 (t, 1H, J=7.0 Hz), 1.31-1.21 (m, 3H), 1.0-0.8 (m, 2H). M−(LC/MS (ESI)): 569.4; M+(LC/MS (ESI)): 571.8. HPLC (Condition A), Rt: 4.83 min (HPLC purity: 99.3%).

reactant | 4-{[[ethoxy(oxo)acetyl](piperidin-4-ylmethyl)amino]methyl}benzoic acid | 16.54 mmol, 7.650 g | C(C)OC(C(=O)N(CC1CCNCC1)CC1=CC=C(C(=O)O)C=C1)=O | C18H24N2O5
reactant | Fmoc-OSu | 19.85 mmol, 6.697 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)ON1C(=O)CCC1=O | C19H15NO5
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | dioxane H2O | 120 mL | O1CCOCC1.O
product | 4-{[[ethoxy(oxo)acetyl]({1-[(9H-fluoren-9-ylmethoxy)carbonyl]piperidin-4-yl}methyl)amino]methyl}benzoic acid | 3.755 g, 40% | C(C)OC(C(=O)N(CC1CCN(CC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CC1=CC=C(C(=O)O)C=C1)=O | C33H34N2O7
